US08877759B2
(benzotriazol-1-yloxy-dimethylamino-methylene)-dimethyl-ammonium tetrafluoroborate (10.40 mg, 0.03239 mmol) was added to a stirred solution of 2-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-2-methyl-propanoic acid (13 mg, 0.03239 mmol), diisopropyl ethyl amine (5.442 mg, 7.334 μL, 0.04211 mmol) and 2-aminoethanol (9.895 mg, 9.778 μL, 0.1620 mmol) in dichloromethane (15 mL) and the reaction allowed to stir at ambient temperature for 1 hour. The reaction was diluted with ethyl acetate/brine. The aqueous layer was extracted with ethyl acetate (×1) and the combined organic extracts washed with brine (×1). The organic extracts were then dried over MgSO4, filtered and concentrated in vacuo. Compound was purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 mM, 100 Å column, gradient 10%-95% B (solvent A: 0.05% trifluoroacetic acid in water; solvent B: acetonitrile) over 16 minutes at 25 mL/minutes], combined fractions were then freeze-dried to give 2-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-N-(2-hydroxyethyl)-2-methyl-pro panamide Compound I-46 as a yellow solid (4 mg, 21.67%). 1H NMR (400.0 MHz, MeOD) δ 1.8 (s, 6H), 3.4 (t, 2H), 3.7 (t, 2H), 7.53-7.57 (m, 3H), 7.62 (s, 1H), 8.0-8.05 (m, 2H), 8.42 (d, 1H), 8.48 (s, 1H), 8.7 (d, 1H), 9.03 (s, 1H); LC/MS m/z 445.1 [M+H]+.

reactant | (benzotriazol-1-yloxy-dimethylamino-methylene)-dimethyl-ammonium tetrafluoroborate | 0.03239 mmol, 10.40 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(N(C)C)=[N+](C)C
reactant | 2-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-2-methyl-propanoic acid | 0.03239 mmol, 13 mg | NC=1N=CC(=NC1C1=CC(=NO1)C1=CC=CC=C1)C1=CC(=NC=C1)C(C(=O)O)(C)C | C22H19N5O3
reactant | diisopropyl ethyl amine | 0.04211 mmol, 7.334 μL, 5.442 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-aminoethanol | 0.1620 mmol, 9.778 μL, 9.895 mg | NCCO | C2H7NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ethyl acetate brine | C(C)(=O)OCC.[Cl-].[Na+].O
product | 2-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-N-(2-hydroxyethyl)-2-methyl-pro panamide | NC=1N=CC(=NC1C1=CC(=NO1)C1=CC=CC=C1)C1=CC(=NC=C1)C(C(=O)NCCO)(C)C | C24H24N6O3
